US09403798B2
To an ethanol/water solution (2/1 (v/v)) of 4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one (94 mg, 0.34 mmol) synthesized in Reference Synthesis Example 3, a formaldehyde aqueous solution (42 mg, 0.51 mmol) was added and the resultant solution was stirred at 50° C. for 5 hours. To the reaction solution, a formaldehyde aqueous solution (83 mg, 1.02 mmol) was added and the resultant mixture was stirred at 50° C. for 3 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain a crude product of 4-[4-(4-fluorophenyl)piperazin-1-yl]-1-(hydroxymethyl)-1,3,5-triazin-2(1H)-one. Subsequently, to a dichloromethane solution (2 mL) of 4-[4-(4-fluorophenyl)piperazin-1-yl]-1-(hydroxymethyl)-1,3,5-triazin-2(1H)-one, triethylamine (57 mg, 0.41 mmol) and p-toluenesulfonic acid anhydride (123 mg, 0.38 mmol) were added and the resultant mixture was stirred at room temperature. After completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain a crude product of the title compound and the crude product was used in the next reaction as it was.

reactant | 4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 0.34 mmol, 94 mg | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(NC=N1)=O | C13H14FN5O
reactant | formaldehyde | 0.51 mmol, 42 mg | C=O | CH2O
reactant | formaldehyde | 1.02 mmol, 83 mg | C=O | CH2O
solvent | ethanol water | C(C)O.O
product | 4-[4-(4-fluorophenyl)piperazin-1-yl]-1-(hydroxymethyl)-1,3,5-triazin-2(1H)-one | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(N(C=N1)CO)=O | C14H16FN5O2
